US05344843
4-[2-Oxo-2-(1,2,3,4-tetrahydro-2-isoquinolinyl)ethoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.3 g) in methanol (10 mL) was treated with sodium carbonate (0.113 g) in water (3 mL), and the mixture was stirred at room temperature for 20 minutes. After the solvents were removed in vacuo, water (10 mL) was added and the solution acidified with 3N hydrochloric acid, then the aqueous layer was extracted with dichloromethane-tetrahydrofuran (1:1). The organic layer was dried (MgSO4), evaporated and the residual solid was crystallized from acetone-tetrahydrofuran-hexane to yield 0.078 g of 4-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolinyl)ethoxy]-alpha-oxobenzeneacetic acid, mp 218°-220° C.

reactant | 4-[2-Oxo-2-(1,2,3,4-tetrahydro-2-isoquinolinyl)ethoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.3 g | C(C)OC(C(C1=CC=C(C=C1)OCC(N1CC2=CC=CC=C2CC1)=O)=O)=O | C21H21NO5
reactant | sodium carbonate | 0.113 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 4-[2-oxo-2-(1,2,3,4-tetrahydro-2-isoquinolinyl)ethoxy]-alpha-oxobenzeneacetic acid | 0.078 g | O=C(COC1=CC=C(C=C1)C(C(=O)O)=O)N1CC2=CC=CC=C2CC1 | C19H17NO5
